US04398939
Lithium 4-methyl-3-thiophenesulfinate
To 30 g of 3-bromo-4-methylthiophene in 150 ml of anhydrous ethyl ether under nitrogen at -70° to -75° C. was added, cautiously, during 30 minutes 111 ml of 1.6 M butyl lithium in hexane. The mixture was stirred for an additional thirty minutes and then 30 ml of liquified sulfur dioxide was added at such a rate that the temperature of the reaction mixture was maintained below -70° C. Upon completion of the addition, the mixture was stirred for an additional 90 minutes at -75° C. and then allowed to stand overnight at room temperature. The resulting precipitate was filtered and washed with ethyl ether, dried in air and in vacuo under nitrogen to yield 30 g of the desired salt, m.p. >250° C.

reactant | 3-bromo-4-methylthiophene | 30 g | BrC1=CSC=C1C | C5H5BrS
reactant | butyl lithium | 1.6 M, 111 ml | C(CCC)[Li]
reactant | sulfur dioxide | 30 ml | S(=O)=O | O2S
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | Lithium 4-methyl-3-thiophenesulfinate | 30 g | CC=1C(=CSC1)S(=O)[O-].[Li+] | InChI=1S/C5H6O2S2.Li/c1-4-2-8-3-5(4)9(6)7;/h2-3H,1H3,(H,6,7);/q;+1/p-1
